US06177423B1
6-(3-Aminopyrrolidin-1-yl)-2-hydroxy-5-methoxy-benzo[de]isoquinoline-1,3-dione
Following the procedure from Example 62, TFA (1.0 mL) and [1-(2-tert-butyloxy-1,3-dioxo-2,3-dihydro-5-methoxy-1H-benzo[de]isoquinolin-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester (0.2 g, 0.4 mmol, from Example N2) was stirred at room temperature overnight, concentrated, and the solid recrystalillized from ethanol/ether to give 0.02 g of the title compound, mp 217-222° C.

reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | [1-(2-tert-butyloxy-1,3-dioxo-2,3-dihydro-5-methoxy-1H-benzo[de]isoquinolin-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester | 0.4 mmol, 0.2 g | C(C)(C)(C)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3N3CC(CC3)NC(OC(C)(C)C)=O)OC)=O | C26H33N3O6
product | 6-(3-Aminopyrrolidin-1-yl)-2-hydroxy-5-methoxy-benzo[de]isoquinoline-1,3-dione | 0.02 g | NC1CN(CC1)C=1C(=CC=2C(N(C(C3=CC=CC1C23)=O)O)=O)OC | C17H17N3O4
